US07223788B2
1-(Butane-1-sulfonyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)-phenyl]amide
Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide (70 mg) dissolved in N-methylpyrrolidone (2 ml) was mixed with potassium carbonate (45 mg) and butylsulfonyl chloride (30 mg). After 12 hours, the mixture was filtered and the filtrate was purified by preparative HPLC. This resulted in the product with the molecular weight of 436.62 (C22H36N4O3S); MS (ESI): 437 (M+H+).

reactant | Piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)phenyl]amide | 70 mg | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCNCC1)C | C18H28N4O
reactant | potassium carbonate | 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | butylsulfonyl chloride | 30 mg | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(Butane-1-sulfonyl)piperidine-4-carboxylic acid [4-(3-dimethylaminopyrrolidin-1-yl)-phenyl]amide | CN(C1CN(CC1)C1=CC=C(C=C1)NC(=O)C1CCN(CC1)S(=O)(=O)CCCC)C | C22H36N4O3S
